US08071588B2
A mixture of N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (1.16 g, 1.981 mmol), (3-formylphenyl)boronic acid (0.372 g, 2.481 mmol), tetrakis (triphenylphosphine) palladium (0) (0.081 g, 0.07 mmol), and sodium carbonate (0.530 g, 5.00 mmol) in 1,4-dioxane (12 mL) and water (4 mL) under an N2 atmosphere was microwaved for 30 min at 140° C. The reaction mixture was diluted with EtOAc and water and the layers were separated. The organic layer was washed with saturated NaCl, dried over Na2SO4, and then evaporated giving a viscous taffy. It was purified on a Chromatotron Plate Silica Gel (1000μ) eluting with CH2Cl2— MeOH (97:3) to afford N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]butanediamide (713.9 mg, 47.1%) as a viscous, nearly colorless, foam, taffy. LC-MS m/z 611.5 (M+H)+, 0.86 min (ret time).

reactant | N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 1.981 mmol, 1.16 g | BrC=1C=C(C=CC1C)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C28H37BrN6O3
reactant | (3-formylphenyl)boronic acid | 2.481 mmol, 0.372 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 5.00 mmol, 0.530 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.07 mmol, 0.081 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]butanediamide | 713.9 mg, 47.1% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)=O)CC | C35H42N6O4
